US05389650
Step 1: Methyl 3-[1-(4-Chlorobenzyl)-3-methyl-5-(5-phenylpyridin-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropanoate acid
A solution of methyl 3-[1-(4-chlorobenzyl)-3-methyl-5-hydroxyindol-2-yl]-2,2-dimethylpropanoate (180 mg) (Preparation 1), 5-phenyl-2-picolyl bromide (138 mg), K2CO3 (84 mg) and Cs2CO3 (30 mg) in DMF (5 mL) wase stirred at r.t. under nitrogen for 48 hours. The mixture was poured onto 1N HCL, extracted 2× EtOAc, washed 2× brine, dried (MgSO4), and evaporated to dryness. The residue was purified by column chromatography (hexane/EtOAc 5:1 then 1:1) to give the title compound.

reactant | methyl 3-[1-(4-chlorobenzyl)-3-methyl-5-hydroxyindol-2-yl]-2,2-dimethylpropanoate | 180 mg | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)O)C)CC(C(=O)OC)(C)C)C=C1 | C22H24ClNO3
reactant | 5-phenyl-2-picolyl bromide | 138 mg | C1(=CC=CC=C1)C=1C=CC(=NC1)CBr | C12H10BrN
reactant | K2CO3 | 84 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Cs2CO3 | 30 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl 3-[1-(4-Chlorobenzyl)-3-methyl-5-(5-phenylpyridin-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropanoate | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OCC2=NC=C(C=C2)C2=CC=CC=C2)C)CC(C(=O)OC)(C)C)C=C1 | C34H33ClN2O3
